US07094907B2
2,3-bis[(2R,5R)-2,5-dimethyl-phospholan-1-yl)-benzo[b]thiophene
Under argon, a degassed solution of 1.98 g (10 mmol) 2,3-bisphosphinobenzo[b]thiophene in 30 ml THF is treated with 5.5 ml (11 mmol) of a 2N solution of LiNEt2 (freshly prepared from Et2NH and 2.7 M n-BuLi/heptane) in THF. The resulting red solution is added to a degassed solution of the cyclic sulfate derived from (2S,5S)-2,5-hexanediol (3.6 g, 20 mmol) in 40 ml THF at 0° C. The mixture is stirred for 2 h during which time decolorization can be observed. Further 5.5 ml (11 mmol) of a 2N solution of LiNEt2 in THF is added and stirring is continued for 2 h. Then 11 ml (22 mmol) of a 2N solution of LiNEt2 in THF is added. At the end of the addition the mixture becomes more viscous and a precipitate can be observed. After stirring for another 2 h at room temperature 100 ml water and 100 ml diethyl ether are added. The organic layer is removed via double ended needle and the extraction is repeated with 50 ml of diethyl ether. The ether layer is removed as described before, the combined organic layers are dried over sodium sulfate and evaporated yielding 1.91 g (53%) of the title compound as a pale yellow oil.

reactant | 2,3-bisphosphinobenzo[b]thiophene | 10 mmol, 1.98 g | PC1=C(C2=C(S1)C=CC=C2)P | C8H8P2S
reactant | LiNEt2 | [Li]N(CC)CC
reactant | Et2NH | N(CC)CC | C4H11N
reactant | n-BuLi heptane | 2.7 M | [Li]CCCC.CCCCCCC
reactant | (2S,5S)-2,5-hexanediol | 20 mmol, 3.6 g | C[C@@H](CC[C@H](C)O)O | C6H14O2
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | THF | 40 ml | C1CCOC1 | C4H8O
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | water | 100 ml | O | H2O
product | 2,3-bis[(2R,5R)-2,5-dimethyl-phospholan-1-yl)-benzo[b]thiophene | 1.91 g, 53% | C[C@H]1P([C@@H](CC1)C)C1=C(C2=C(S1)C=CC=C2)P2[C@@H](CC[C@H]2C)C | C20H28P2S
